US04335054
The procedure described in Example 28 is repeated, except that 8.23 g (0.05 mol) of 4-formylbenzoyl chloride and 3.32 g (0.0625 mol) of acrylonitrile are used. After a reaction time of 3 hours at 120° C., 3.5 g (0.0223 mol) of 4-formylcinnamonitrile are obtained, corresponding to a yield of 44.6% of theory; melting point 122° C. Analysis for C10H7NO (molecular weight 157): calculated C 76.22%, H 4.49%, N 8.91%, found C 76.30%, H 4.55%, N 8.96%.

reactant | 4-formylbenzoyl chloride | 0.05 mol, 8.23 g | C(=O)C1=CC=C(C(=O)Cl)C=C1 | C8H5ClO2
reactant | acrylonitrile | 0.0625 mol, 3.32 g | C(C=C)#N | C3H3N
product | 4-formylcinnamonitrile | 0.0223 mol, 3.5 g, yield of 44.6% | C(=O)C1=CC=C(C=CC#N)C=C1 | C10H7NO
